US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with 2,6-dimethylmorpholine (28 μl, 0.23 mmol) via procedure W to afford 74 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2,6-dimethylmorpholino)(imino)methyl)-benzamide. MS (Q1) 449 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | 2,6-dimethylmorpholine | 0.23 mmol, 28 μl | CC1CNCC(O1)C | C6H13NO
solvent | methanol | 0.075 M | CO | CH4O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2,6-dimethylmorpholino)(imino)methyl)-benzamide | 74 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(=N)N1CC(OC(C1)C)C)=O)C1=NC=CC=C1 | C25H25ClN4O2
